US05488055
A mixture of 2-iodobenzoic acid (28 g, 0.113 mol), 5-amino-1-cyclopentylpyrazole (17 g, 0.113 mol), DMF (100 ml), potassium carbonate (16 g, 0.113 mol) and Cu(OAc) 2 (0.5 g) was refluxed overnight. The reaction mixture was poured into ice-water, and acidified with acetic acid to a pH of 5. The gum which formed was extracted with CH2Cl2 and the CH2Cl2 layer was washed with water, dried over MgSO4, and evaporated to afford 21 g of N-(1-cyclopentyl pyrazol-5-yl) anthranilic acid.

reactant | 2-iodobenzoic acid | 0.113 mol, 28 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | 5-amino-1-cyclopentylpyrazole | 0.113 mol, 17 g | NC1=CC=NN1C1CCCC1 | C8H13N3
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 0.113 mol, 16 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(1-cyclopentyl pyrazol-5-yl) anthranilic acid | 21 g | C1(CCCC1)N1N=CC=C1NC=1C(C(=O)O)=CC=CC1 | C15H17N3O2
